US06093732
N-[(4-Chlorophenyl)methyl]-6-[(1Z)-3-(ethylthio)-1-propenyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide
A mixture of N-[(4-Chlorophenyl)methyl]-6-[3-(ethylthio)-1-propynyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide from Example No. 127 (0.15 g) and Pd/C (10%, 0.06 g) in 3:1 CH2Cl2 /MeOH (20 mL) are placed on a Parr hydrogenator under 40 psi of H2 and shaken for 3 h. The reaction mixture is then filtered through Celite and concentrated in vacuo. Crystallization from MeOH affords the title compound as a solid.

reactant | N-[(4-Chlorophenyl)methyl]-6-[3-(ethylthio)-1-propynyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)C#CCSCC)F | C22H18ClFN2O2S
catalyst | Pd/C | 0.06 g | [Pd] | Pd
solvent | CH2Cl2 MeOH | 20 mL | C(Cl)Cl.CO
product | N-[(4-Chlorophenyl)methyl]-6-[(1Z)-3-(ethylthio)-1-propenyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)\C=C/CSCC)F | C22H20ClFN2O2S
